US07649011B2
3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-allyl)-N-(2-piperidin-1-yl-ethyl)-benzamide
(2-Methyl-3-phenyl-allyl)-(2-piperidin-1-yl-ethyl)-amine, 0.5 g (1.9 mmol), was dissolved in 10 ml of anhydrous methanol under nitrogen. The solution was cooled to 0° C. To this mixture was added 3,4,5-trimethoxybenzoic acid 0.49 g (2.3 mmol), 0.2 ml of triethylamine, and TBTU 1.2 g (3.8 mmol). The reaction was stirred for 18 hours at room temperature. The reaction mixture was then diluted with chloroform, extracted with 2×10 ml of water, 2×10 ml sodium bicarbonate, and washed 2×10 ml of brine. The organic layer was dried over sodium sulfate and was concentrated. The compound was then purified on silica gel using 1.2% methanol in chloroform to give 102 mg of product as an off white HCl salt. Yield: 12%.

reactant | (2-Methyl-3-phenyl-allyl)-(2-piperidin-1-yl-ethyl)-amine | CC(CNCCN1CCCCC1)=CC1=CC=CC=C1 | C17H26N2
reactant | 3,4,5-trimethoxybenzoic acid | 2.3 mmol, 0.49 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | TBTU | 3.8 mmol, 1.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4,5-Trimethoxy-N-(2-methyl-3-phenyl-allyl)-N-(2-piperidin-1-yl-ethyl)-benzamide | 102 mg, Yield: 12% | COC=1C=C(C(=O)N(CCN2CCCCC2)CC(=CC2=CC=CC=C2)C)C=C(C1OC)OC | C27H36N2O4
